US05959107
5-Isoquinolinethiol 500 mg (3.1 mmol) was dissolved in DMF 15 ml, potassium carbonate 830 mg (6.0 mmol) and 4,5-dichloro-2-nitroaniline 620 mg (3.0 mmol) were added, and the mixture was stirred at room temperature for 1.5 hours. The reaction mixture was poured into ice water, and the resulting precipitates were collected and washed with water to give 4-chloro-5-(5-isoquinolylsulfanyl)-2-nitroaniline 980 mg (98.4%).

reactant | 5-Isoquinolinethiol | 3.1 mmol, 500 mg | C1=NC=CC=2C(=CC=CC12)S | C9H7NS
reactant | potassium carbonate | 6.0 mmol, 830 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4,5-dichloro-2-nitroaniline | 3.0 mmol, 620 mg | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-chloro-5-(5-isoquinolylsulfanyl)-2-nitroaniline | 980 mg, 98.4% | ClC1=CC(=C(N)C=C1SC1=C2C=CN=CC2=CC=C1)[N+](=O)[O-] | C15H10ClN3O2S
